US05608056
Allyl (4R)-2-diazo-4-[(2R,3S)-3-{(1R)-1-hydroxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate (709 mg) and (2R,4S)-4-acetylthio-1-allyloxycarbonyl-2-[2-(5-hydroxymethylimidazol-1-yl) ethyl]pyrrolidine (849 mg) were reacted in substantially the same manner as that of Example 2-3) to give allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(5-hydroxymethylimidazol-1-yl)ethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (802 mg) as a yellow solid.

reactant | Allyl (4R)-2-diazo-4-[(2R,3S)-3-{(1R)-1-hydroxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate | 709 mg | [N+](=[N-])=C(C(=O)OCC=C)C([C@H](C)[C@H]1NC([C@@H]1[C@@H](C)O)=O)=O | C13H17N3O5
reactant | (2R,4S)-4-acetylthio-1-allyloxycarbonyl-2-[2-(5-hydroxymethylimidazol-1-yl) ethyl]pyrrolidine | 849 mg | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)CCN1C=NC=C1CO | C16H23N3O4S
product | allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-{2-(5-hydroxymethylimidazol-1-yl)ethyl}pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 802 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CCN1C=NC=C1CO | C27H36N4O7S
